US06066641
f) 3-(4-Chlorobenzyl)-xanthine
6-Amino-1-(4-chlorobenzyl)-5-formylamino-uracil (25.58 g) in 200 ml of 2N NaOH and 150 ml of water was heated under reflux for 3 hours. Charcoal (2.6 g) was added, and after filtration the solution was neutralized to pH 7.0 and the solid collected. Reprecipitation from NaOH by neutralization with HCl gave 22.91 g of title compound as a white solid mp 304-10° C.

reactant | 6-Amino-1-(4-chlorobenzyl)-5-formylamino-uracil | 25.58 g | NC1=C(C(NC(N1CC1=CC=C(C=C1)Cl)=O)=O)NC=O | C12H11ClN4O3
reactant | Charcoal | 2.6 g | C | CH4
solvent | NaOH | 2N, 200 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 3-(4-Chlorobenzyl)-xanthine | 22.91 g | ClC1=CC=C(CN2C(NC(C=3NC=NC23)=O)=O)C=C1 | C12H9ClN4O2
